US04618610
A mixture of 6-(4-chlorosulfonylphenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (4.27 g) and concentrated ammonium hydroxide (30 ml) was stirred at room temperature for 30 minutes and then at 50° C. for 1 hour, and concentrated under reduced pressure. To the residue was added water and the mixture was stirred with ice-cooling for 10 minutes. The crystals which formed were recovered by filtration, washed with water and recrystallized from aqueous ethanol to give 6-(4-sulfamoylphenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (2.91 g).

reactant | 6-(4-chlorosulfonylphenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 4.27 g | ClS(=O)(=O)C1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H10ClN3O3S
reactant | ammonium hydroxide | 30 ml | [OH-].[NH4+]
product | 6-(4-sulfamoylphenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 2.91 g | S(N)(=O)(=O)C1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O3S
